US03975398
Preparation of 9-(β-Hydroxyethylaminocarbonylethyl)-3-aminocarbazole
2.68 g. (0.01 mol) 9-(β-carbomethoxyethyl)-3-aminocarbazole (prepared in the manner described in Example 4) were placed in a 50 ml. round-bottomed flask equipped with a condenser and heating bath and heated under reflux with 20 ml. ethanolamine. Thereafter, excess ethanolamine was distilled off under waterpump vacuum and the residue obtained dissolved in methanol. After the addition of methanolic hydrogen chloride, the crystals formed were filtered off with suction and washed with ether. There were obtained 2.44 g. (73.2% of theory) 9-(β-hydroxyethylaminocarbonylethyl)-3-aminocarbazole hydrochloride, which had a melting point of 217°- 218°C.

reactant | 9-(β-carbomethoxyethyl)-3-aminocarbazole | 0.01 mol | C(=O)(OC)CCN1C2=CC=CC=C2C=2C=C(C=CC12)N | C16H16N2O2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | hydrogen chloride | Cl | ClH
reactant | 9-(β-hydroxyethylaminocarbonylethyl)-3-aminocarbazole hydrochloride | Cl.OCCNC(=O)CCN1C2=CC=CC=C2C=2C=C(C=CC12)N
solvent | methanol | CO | CH4O
product | 9-(β-Hydroxyethylaminocarbonylethyl)-3-aminocarbazole | OCCNC(=O)CCN1C2=CC=CC=C2C=2C=C(C=CC12)N | C17H19N3O2
